US03959322
Reflux a suspension of 5.0 g. of dl-13-ethyl-3-methoxygona-1,3,5(10)-trien-17β-ol and 3.83 g. of sodium hydride (50% in oil) for 1.5 hours in xylene (100 ml). Add 14.5 ml. of ethyl iodide and reflux for 22 hours. Acidify with 2N hydrochloric acid and extract the material with benzene. Chromatograph the residue on alumina (Grade I neutral). Elute the product with benzene-ether (1:1). Recrystallize the product from 60 ml. of methanol to obtain dl-17β-ethoxy-13-ethyl-3-methoxygona-1,3,5(10)-triene (2.3 g); m.p. 74°-77°C.

reactant | 13-ethyl-3-methoxygona-1,3,5(10)-trien-17β-ol | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)O | C20H28O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 17β-ethoxy-13-ethyl-3-methoxygona-1,3,5(10)-triene | 2.3 g | C(C)O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C22H32O2
